US09359362B2
4-(6-(2-Methoxyethyl)-7-oxo-4-[3-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro-4H-pyrrolo[3,4-d]-tetrazolo[1,5-a]pyrimidin-8-yl)benzonitrile
Ethyl 5-(bromomethyl)-7-(4-cyanophenyl)-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo-[1,5-a]pyrimidine-6-carboxylate (35.3 mg, 66.1 μmol) was initially charged in acetone (1.0 ml). 2-Methoxyethylamine (12.4 mg, 4 μl, 165 μmol, 2.5 eq.) was added dropwise, and the mixture was then stirred at RT overnight. After addition of more 2-methoxyethylamine (9.9 mg, 132 μmol, 2 eq.), the mixture was stirred at RT for a further 5 h. The reaction mixture was then concentrated under reduced pressure and the residue was purified by preparative HPLC (Kromasil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (13 mg, 41% of theory).

reactant | Ethyl 5-(bromomethyl)-7-(4-cyanophenyl)-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo-[1,5-a]pyrimidine-6-carboxylate | 66.1 μmol, 35.3 mg | BrCC=1N(C=2N(C(C1C(=O)OCC)C1=CC=C(C=C1)C#N)N=NN2)C2=CC(=CC=C2)C(F)(F)F | C22H16BrF3N6O2
reactant | 2-Methoxyethylamine | 165 μmol, 4 μl, 12.4 mg, 2.5 eq. | COCCN | C3H9NO
reactant | 2-methoxyethylamine | 132 μmol, 9.9 mg, 2 eq. | COCCN | C3H9NO
solvent | acetone | 1.0 ml | CC(=O)C | C3H6O
product | 4-(6-(2-Methoxyethyl)-7-oxo-4-[3-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro-4H-pyrrolo[3,4-d]-tetrazolo[1,5-a]pyrimidin-8-yl)benzonitrile | COCCN1CC=2N(C=3N(C(C2C1=O)C1=CC=C(C#N)C=C1)N=NN3)C3=CC(=CC=C3)C(F)(F)F | C23H18F3N7O2
